US03940395
Similarly, reacting p-toluamidine hydrochloride with diethyl malonate affords 2-(4-tolyl)-4,6-(1H,5H)-pyrimidinedione which is then reacted with phosphoryl chloride to produce 4,6-dichloro-2-(4-tolyl)-pyrimidine, m.p. 84°-85°C.

reactant | p-toluamidine hydrochloride | Cl.C1(=CC=C(C=C1)C(=N)N)C
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 2-(4-tolyl)-4,6-(1H,5H)-pyrimidinedione | C1(=CC=C(C=C1)C=1NC(CC(N1)=O)=O)C | C11H10N2O2
